US07411076B2
(2) Preparation of 2-chloro-N-(7-hydroxy-2-oxo-2H-1-benzopyran-3-yl)benzamide.
2-Chlorobenzoyl chloride (23.0 mg, 0.291 mmol) was added to a mixture of 3-amino-7-hydroxy-2H-1-benzopyran-2-one (50.0 mg, 0.282 mmol), and the mixture was stirred at room temparature for 1 hour. 1N hydrochloric acid (10 ml) was added, and the mixture was stirred. The precipitated crystal was filtered and washed successively with water and diisopropyl ether to give the title compound as a light brown crystal (48.8 mg, 54.8%).

reactant | 2-Chlorobenzoyl chloride | 0.291 mmol, 23.0 mg | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | 3-amino-7-hydroxy-2H-1-benzopyran-2-one | 0.282 mmol, 50.0 mg | NC=1C(OC2=C(C1)C=CC(=C2)O)=O | C9H7NO3
solvent | hydrochloric acid | 1N, 10 ml | Cl | ClH
product | 2-chloro-N-(7-hydroxy-2-oxo-2H-1-benzopyran-3-yl)benzamide | 48.8 mg, 54.8% | ClC1=C(C(=O)NC=2C(OC3=C(C2)C=CC(=C3)O)=O)C=CC=C1 | C16H10ClNO4
